US06849639B2
Step D: methyl 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylate
A solution of methyl (3-formylphenyl)-5-oxopyrrolidine-3-carboxylate, 2-aminopyridine, and AcOH in trimethylorthoformate was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue was re-dissolved in methanol. The solution was then cooled to 0° C. AcOH was added followed by NaBH3CN solid in portions. The reaction was allowed to stirred at room temperature for 8 hours. The reaction solution was then concentrated in vacuo. The residue was dissolved in EtOAc and organic solution was washed with saturated NaHCO3 twice. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel chromatograph (10% meOH/EtOAc) to provide an orange oil.

reactant | methyl (3-formylphenyl)-5-oxopyrrolidine-3-carboxylate | C(=O)C=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C13H13NO4
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | AcOH | CC(=O)O | C2H4O2
solvent | trimethylorthoformate | COC(OC)OC | C4H10O3
product | methyl 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylate | O=C1CC(CN1C1=CC(=CC=C1)CNC1=NC=CC=C1)C(=O)OC | C18H19N3O3
